US04908371
With stirring, 11.2 ml of triethylamine are added at room temperature to a suspension of 5.56 g of 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone in 100 ml of acetonitrile and 100 ml of methylene chloride, followed by the addition of 7.64 ml of ethyl chloroformate. Within 15 minutes a complete solution forms and, after a further 45 minutes, the volatile constituents are removed by evaporation under reduced pressure. The residue is dried under a high vacuum and the unreacted starting material is crystallised from ethyl acetate. 3-Ethoxycarbonyloxy-1,2-dimethyl-4(1H)-pyridinone is obtained from the mother liquor in the form of a yellow foam with a melting point of 113°-115° C.; thin-layer chromatogram: Rf=0.05 (7:3 mixture of methylene chloride and acetone), 0.10 (9:1 mixture of methylene chloride and isopropanol, 0.20 (9:1 mixture of methylene chloride and methanol), and 0.35 (4:1 mixture of methylene chloride and methanol).

reactant | triethylamine | 11.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone | 5.56 g | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | ethyl chloroformate | 7.64 ml | ClC(=O)OCC | C3H5ClO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-Ethoxycarbonyloxy-1,2-dimethyl-4(1H)-pyridinone | C(C)OC(=O)OC1=C(N(C=CC1=O)C)C | C10H13NO4
